US04559345
[4-Chloro-6-dimethylamino-2-pyrimidinyl]-thioacetic acid, ethyl ester (III, 29)
A solution of ethyl 4,6-dichloro-2-pyrimidinylthioacetate (6 g) in acetonitrile (25 ml) is treated with a 33% aqueous solution of dimethylamine (6.4 ml). The mixture is left to stand at room temperature for 1 hour, then is cooled for 2 hours at 0° C. The precipitate is filtered, washed with a small quantity of acetonitrile: 4.85 g of the desired product are obtained (III, 29).

reactant | ethyl 4,6-dichloro-2-pyrimidinylthioacetate | 6 g | ClC1=NC(=NC(=C1)Cl)CC(=S)OCC | C8H8Cl2N2OS
reactant | dimethylamine | 6.4 ml | CNC | C2H7N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | [4-Chloro-6-dimethylamino-2-pyrimidinyl]-thioacetic acid, ethyl ester | 4.85 g | ClC1=NC(=NC(=C1)N(C)C)CC(=S)OCC | C10H14ClN3OS
